US06156776
A mixture of 1-[(4-methyl)benzoyl]-2-(3-nitrobenzoyl)hydrazine (1.40 g, 4.68 mmol) and Lawesson's Reagent (0.95 g, 2.34 mmol) in benzene (25 ml) is slowly heated to 60° C. After 3 hours the solution is concentrated, quenched with 35 ml of water and heated to reflux for 12 hours. The mixture is then cooled to room temperature and the precpitate is collected by filtration. The precipitate is then taken up in chloroform (100 ml) and the insoluble portion is removed by filtration. The filtrate is then dried over MgSO4 and concentrated to yield 2-(3'-nitrophenyl)-5-(p-tolyl)-1,3,4-thiadiazole as a pale yellow solid. (0.67 g, 48%).

reactant | 1-[(4-methyl)benzoyl]-2-(3-nitrobenzoyl)hydrazine | 4.68 mmol, 1.40 g | CC1=CC=C(C(=O)NNC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C=C1 | C15H13N3O4
reactant | Lawesson's Reagent | 2.34 mmol, 0.95 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 2-(3'-nitrophenyl)-5-(p-tolyl)-1,3,4-thiadiazole | [N+](=O)([O-])C=1C=C(C=CC1)C=1SC(=NN1)C1=CC=C(C=C1)C | C15H11N3O2S
